US08030337B2
N-[2-(2-Ethyl-7,8-dihydro-6H-indeno[5,4-d][1,3]oxazol-8-yl)ethyl]acetamide
N-{3-[2-(Acetylamino)ethyl]-4-hydroxy-2,3-dihydro-1H-inden-5-yl}propanamide (88.5 mg, 0.305 mmol) and pyridinium p-toluenesulfonate (15.3 mg, 0.061 mmol) were heated under reflux in xylene (3.1 mL) for 2.5 hr. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane=50/50→100/0) to give the title compound (69.8 mg, yield 84%).

reactant | N-{3-[2-(Acetylamino)ethyl]-4-hydroxy-2,3-dihydro-1H-inden-5-yl}propanamide | 0.305 mmol, 88.5 mg | C(C)(=O)NCCC1CCC2=CC=C(C(=C12)O)NC(CC)=O | C16H22N2O3
reactant | pyridinium p-toluenesulfonate | 0.061 mmol, 15.3 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | xylene | 3.1 mL | C=1(C(=CC=CC1)C)C | C8H10
product | N-[2-(2-Ethyl-7,8-dihydro-6H-indeno[5,4-d][1,3]oxazol-8-yl)ethyl]acetamide | 69.8 mg, yield 84% | C(C)C=1OC2=C(N1)C=CC=1CCC(C12)CCNC(C)=O | C16H20N2O2
